US04633013
Preparation of 5-Chloro-2,2,6-Trimethyl-4H-1,3-Dioxin-4-one
A solution of 2,2,6-trimethyl-4H-1,3-dioxin-4-one (0.2 mol, 28.4 g) in 100 ml of CH2Cl2 was cooled to -50° C. and liquid chlorine (0.25 mol) was added dropwise over five minutes. The solution was allowed to warm to 20° C. over 30 minutes, and the solvent was then removed in vacuo, leaving 35.8 g (100% yield, 92% assay) of a pale yellow oil. A portion of this mixture was purified by flash chromatography (10% Et2O/hexanes on silica) to provide the title compound as white crystals.

reactant | 2,2,6-trimethyl-4H-1,3-dioxin-4-one | 0.2 mol, 28.4 g | CC1(OC(=CC(O1)=O)C)C | C7H10O3
reactant | chlorine | 0.25 mol | ClCl | Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 5-Chloro-2,2,6-Trimethyl-4H-1,3-Dioxin-4-one | 100% yield | ClC=1C(OC(OC1C)(C)C)=O | C7H9ClO3
